US05346917
A mixture of 1-[[3-(diethylamino)propyl]amino]-4-(hydroxymethyl)thioxanthen-9-one (3.82 g), toluene (60 mL) and manganese oxide (7.5 g) was refluxed for 6.5 hours. The mixture was cooled to room temperature, filtered through celite, and the filtrate was concentrated in vacuo to afford 3.3 g (87%) of 1-[[3-(diethylamino)propyl]amino]-9-oxothioxanthen-4 -carboxaldehyde as a brown oil.

reactant | 1-[[3-(diethylamino)propyl]amino]-4-(hydroxymethyl)thioxanthen-9-one | 3.82 g | C(C)N(CCCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)CO)CC | C21H26N2O2S
catalyst | manganese oxide | 7.5 g | [O-2].[Mn+2]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[[3-(diethylamino)propyl]amino]-9-oxothioxanthen-4 -carboxaldehyde | 3.3 g, 87% | C(C)N(CCCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)C=O)CC | C21H24N2O2S
